US08013010B2
2-(4-Pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside
By carrying out the operation analogously to example 1, starting from 2-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside, obtained according to preparation IV, and 4-pyridineboronic acid, the expected product is obtained in the form of a white powder with a yield of 65%.

reactant | 2-bromophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)Br)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C17H19BrO7S
reactant | 4-pyridineboronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 2-(4-Pyridinyl)phenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | yield of 65% | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)C2=CC=NC=C2)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C22H23NO7S
